US07858624B2
To a solution of (3R)-tert-butyl 3-((R)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (86 mg, 0.2 mmol) in anhydrous CH2Cl2 (8 mL) was added Et3N (0.5 ml, 20 mmol). The mixture was cooled with an ice bath and acetyl chloride (15 mg, 0.2 mmol) in CH2Cl2 (4 mL) was added. The reaction mixture was stirred at rt for 0.5 h, then washed with water, dried over MgSO4, filtered and concentrated to give (3R)-tert-butyl 3-((R)-(2-acetamidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (80 mg, 85%), which was used in the next step without purification.

reactant | (3R)-tert-butyl 3-((R)-(2-aminoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 0.2 mmol, 86 mg | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C26H35FN2O3
reactant | Et3N | 20 mmol, 0.5 ml | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.2 mmol, 15 mg | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (3R)-tert-butyl 3-((R)-(2-acetamidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 80 mg, 85% | C(C)(=O)NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C28H37FN2O4
